US08497274B2
(iii) Production of methyl 2-amino-6-[3-({[3-(1-cyano-1-methylethyl)phenyl]carbonyl}amino)phenoxy]-1,3-benzothiazole-7-carboxylate
Potassium thiocyanate (1.02 g, 10.5 mmol) was suspended in acetic acid (10 mL), and the mixture was stirred at room temperature for 10 min. A solution of methyl 5-amino-2-[3-({[3-(1-cyano-1-methylethyl)phenyl]carbonyl}amino)phenoxy]benzoate (1.13 g, 2.62 mmol) in acetic acid (10 mL) was added to the obtained solution, and the mixture was further stirred at room temperature for 10 min. A solution of bromine (460 mg, 2.88 mmol) in acetic acid (5 ml) was slowly added dropwise to the obtained solution, and the mixture was stirred at room temperature for 3 hr. The resulting yellow insoluble material was filtered off and washed with acetic acid. The filtrate and washings were combined and the mixture was concentrated under reduced pressure. The obtained residue was suspended in ethyl acetate (200 mL), washed successively with saturated aqueous sodium hydrogen carbonate solution (100 mL) and saturated brine (100 mL×2), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was is concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate/n-hexane=40/60→100/0), and the obtained solution was concentrated under reduced pressure to give the title compound (1.15 g, 90%) as a white powder.

reactant | Potassium thiocyanate | 10.5 mmol, 1.02 g | [S-]C#N.[K+]
reactant | methyl 5-amino-2-[3-({[3-(1-cyano-1-methylethyl)phenyl]carbonyl}amino)phenoxy]benzoate | 2.62 mmol, 1.13 g | NC=1C=CC(=C(C(=O)OC)C1)OC1=CC(=CC=C1)NC(=O)C1=CC(=CC=C1)C(C)(C)C#N | C25H23N3O4
reactant | bromine | 2.88 mmol, 460 mg | BrBr | Br2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | methyl 2-amino-6-[3-({[3-(1-cyano-1-methylethyl)phenyl]carbonyl}amino)phenoxy]-1,3-benzothiazole-7-carboxylate | 1.15 g, 90% | NC=1SC2=C(N1)C=CC(=C2C(=O)OC)OC2=CC(=CC=C2)NC(=O)C2=CC(=CC=C2)C(C)(C)C#N | C26H22N4O4S
